US08183351B2
V-6 (3,4-Dimethyl-5-oxo-4,5-dihydro-1H-1,2,4-triazol-1-yl)acetic acid
593 mg of methyl (3,4-dimethyl-5-oxo-4,5-dihydro-1H-1,2,4-triazol-1-yl)acetate (Va-6) are dissolved in 5 ml of tetrahydrofuran, and 134 mg of lithium hydroxide in 2 ml of water are added. The mixture is stirred at room temperature for 16 hours, acidified with 1N hydrochloric acid and extracted with ethyl acetate. The organic phase is dried over sodium sulphate and the solvent is removed under reduced pressure. This gives 167 mg of (3,4-dimethyl-5-oxo-4,5-dihydro-1H-1,2,4-triazol-1-yl)acetic acid.

reactant | methyl (3,4-dimethyl-5-oxo-4,5-dihydro-1H-1,2,4-triazol-1-yl)acetate | 593 mg | CC1=NN(C(N1C)=O)CC(=O)OC | C7H11N3O3
reactant | lithium hydroxide | 134 mg | [OH-].[Li+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | water | 2 ml | O | H2O
product | (3,4-Dimethyl-5-oxo-4,5-dihydro-1H-1,2,4-triazol-1-yl)acetic acid | CC1=NN(C(N1C)=O)CC(=O)O | C6H9N3O3
